US04080449
150 ml. of 20% sulfuric acid are added, with vigorous stirring, to a solution of 2.9 g. (0.0086 moles) of 8-chloro-4-methyl-2-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one in 50 ml. of dichloromethane. When the addition is complete, stirring is continued for 2 at room temperature. After decantation, the organic phase is washed neutral with water, dried over anhydrous sodium sulfate and then evaporated to dryness in vacuo. The solid residue is purified by chromatography on a silica column and then by recrystallization from methanol. 8-Chloro-2-(2-hydroxyethyl)-4-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one is obtained in a yield of 10% of theory. M.P. 139°-140° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 8-chloro-4-methyl-2-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | 0.0086 moles | ClC1=CC2=C(CC(C(N(C2)CCOC2OCCCC2)=O)C)C=C1 | C18H24ClNO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-Chloro-2-(2-hydroxyethyl)-4-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | yield of 10% | ClC1=CC2=C(CC(C(N(C2)CCO)=O)C)C=C1 | C13H16ClNO2
